US08536203B2
3-(3,4-dimethoxy-5-nitrophenyl)-4-(2-(trifluoromethyl)pyridin-3-yl)-4,5-dihydroisoxazol-5-ol (2.06 g, 5 mmol) was heated in 20 mL of ethyl acetate to 70° C. To the resulting slurry was added trifluoroacetic acid (0.74 g, 6.5 mmol) dropwise. After 10 minutes, the reaction was evaporated to dryness and the residue was recrystallised from isopropanol to give 3-(3,4-dimethoxy-5-nitrophenyl)-4-(2-(trifluoromethyl)pyridin-3-yl)isoxazole, 1.224 g (62%).

reactant | 3-(3,4-dimethoxy-5-nitrophenyl)-4-(2-(trifluoromethyl)pyridin-3-yl)-4,5-dihydroisoxazol-5-ol | 5 mmol, 2.06 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NOC(C1C=1C(=NC=CC1)C(F)(F)F)O | C17H14F3N3O6
reactant | trifluoroacetic acid | 6.5 mmol, 0.74 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-dimethoxy-5-nitrophenyl)-4-(2-(trifluoromethyl)pyridin-3-yl)isoxazole | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NOC=C1C=1C(=NC=CC1)C(F)(F)F | C17H12F3N3O5
